US07598422B2
Preparation of (2S,3S)-2-Amino-4,4,4-trifluoro-3-methyl-butan-1-ol HCl
(2S,3S)-4,4,4-Trifluoro-2-hydrazino-3-methyl-butan-1-ol HCl (130 g, 0.623 mole) was dissolved in 1.4 L MeOH with 60 mL concentrated HCl. The solution was hydrogenated with 10 g PtO2 at 50 psig for 12 hours. The mixture was filtered and the filter washed with 1 L MeOH. The MeOH was removed to dryness under vacuum at 30-40° C. The solid was chased with two portions of 1 L MeOH. The solid was stirred with 0.5 L MeOH for 1 hour and the NH4Cl was removed by filtration. To remove more NH4Cl, the filtrate can be concentrated to 2/3 volume and crystallized NH4Cl removed by filtration. The filtrate was concentrated to dryness and dried at 35° C. at <10 mm Hg. The hydrochloride can be purified by stirring with 20% v/v CH3CN:EtOAc removing a green coloring and removing essentially all the Pt to the 10 ppm level.

reactant | (2S,3S)-4,4,4-Trifluoro-2-hydrazino-3-methyl-butan-1-ol HCl | 0.623 mole, 130 g | Cl.FC([C@H]([C@@H](CO)NN)C)(F)F
solvent | MeOH | 1.4 L | CO | CH4O
solvent | HCl | 60 mL | Cl | ClH
catalyst | PtO2 | 10 g | O=[Pt]=O
product | (2S,3S)-2-Amino-4,4,4-trifluoro-3-methyl-butan-1-ol HCl | Cl.N[C@H](CO)[C@@H](C(F)(F)F)C | InChI=1S/C5H10F3NO.ClH/c1-3(4(9)2-10)5(6,7)8;/h3-4,10H,2,9H2,1H3;1H/t3-,4+;/m0./s1
